### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/SymplecticGroup): symplectic matrices have determinant 1

### PR DESCRIPTION
**Pull request by Yu-Misaka**
Greetings! This PR proposes a proof of `symplectic_matrix_det` mentioned at [lean-eval](https://lean-lang.org/eval/problems/symplectic_matrix_det/). The formalization of statement is due to @kim-em.

The proof comes from Seed Prover (lean-eval) and was golfed by me.
Co-authored-by: @GanjinZero

---

- [ ] depends on: #40449

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wwylele** [comment]
(btw you still have the WIP tag on, so I don't know whether this is ready to review or not)
I am not familiar with the touched file and material, so I'll need to study a bit before giving the requested review. As a general advice, is it possible to break this into smaller lemmas and PRs, and those that are obviously good can be merged quickly? e.g. `mulVec_apply` looks like a good small PR (though, I am surprised it didn't exist, so please double check that we are not repeating a lemma here)

**Comment by Yu-Misaka** [comment]
> (btw you still have the WIP tag on, so I don't know whether this is ready to review or not) I am not familiar with the touched file and material, so I'll need to study a bit before giving the requested review. As a general advice, is it possible to break this into smaller lemmas and PRs, and those that are obviously good can be merged quickly? e.g. `mulVec_apply` looks like a good small PR (though, I am surprised it didn't exist, so please double check that we are not repeating a lemma here)

Ah, sorry I forgot to remove the WIP label. Sure we can see how to break the PR if it benefits review process. I am also not very sure about `mulVec_apply`, I didn't find similar lemma to do the rw (for example a [loogle](https://loogle.lean-lang.org/?q=Finset.sum%2C+Matrix.mulVec) search does not return desired result) - we can always use `change`, but perhaps an explicit lemma would be a bit more handy?

**Comment by wwylele** [comment]
Do you have a reference to the informal proof behind this? ~~It looks different from the proof via Pfaffian sketched on lean-eval, and I wonder whether this is more complicated than necessary~~ I see now that Pfaffian probably doesn't work for arbitrary ring

**Comment by Yu-Misaka** [comment]
> Do you have a reference to the informal proof behind this? ~It looks different from the proof via Pfaffian sketched on lean-eval, and I wonder whether this is more complicated than necessary~ I see now that Pfaffian probably doesn't work for arbitrary ring

Thanks for your review! I didn't find relevant literature using exactly the same proof here, but I will compile one soon. I am not sure about the generality of Pfaffian, but my initial idea was that we don't have Pfaffian at present and there seems to be no active PR / project on establishing it. So perhaps we can settle for this proof for now - even add a TODO to golf the proof using Pfaffian in the future.

**Comment by Yu-Misaka** [comment]
> Do you have a reference to the informal proof behind this? ~It looks different from the proof via Pfaffian sketched on lean-eval, and I wonder whether this is more complicated than necessary~ I see now that Pfaffian probably doesn't work for arbitrary ring

Hi! I wrote a draft of the proof [here](https://github.com/user-attachments/files/28840908/Standard_document__1_-2.pdf) :)

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean [hunk 1]
```diff
@@ -735,4 +735,39 @@ theorem diagonal_transvection_induction_of_det_ne_zero (P : Matrix n n 𝕜 →
...
+  set E := fun i ↦ if D i = 0 then 1 else (D i)⁻¹ with E_def
+  set s := Finset.filter (fun i ↦ D i ≠ 0) Finset.univ with s_def
+  have hAinv_unit : IsUnit (L.reverse.map (toMatrix ∘ .inv)).prod.det := by
+    rw [← List.map_map, det_toMatrix_prod]; exact isUnit_one
+  have hBinv_unit : IsUnit (L'.reverse.map (toMatrix ∘ .inv)).prod.det := by
+    rw [← List.map_map, det_toMatrix_prod]; exact isUnit_one
+  have hE_ne_zero (i : n) : E i ≠ 0 := by
+    by_cases h : D i = 0
+    · simp only [E_def, if_pos h, ne_eq, one_ne_zero, not_false_eq_true]
+    · simpa only [E_def, if_neg h, ne_eq, inv_eq_zero]
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/Matrix/Transvection.lean]: Is the terminal `simp only` intended? If yes what's the reason?

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean [hunk 2]
```diff
@@ -735,4 +735,39 @@ theorem diagonal_transvection_induction_of_det_ne_zero (P : Matrix n n 𝕜 →
...
+    simp only [E_def, mul_diagonal, diagonal_apply, ite_mul, one_mul, zero_mul, ne_eq,
+      Finset.mem_filter, Finset.mem_univ, true_and, ite_not, s_def]
+    split_ifs with h1 h2
+    · rw [← h1, h2]
+    · rw [← h1, inv_mul_cancel₀ h2]
+    · rfl
+  refine ⟨diagonal E * (L.reverse.map (toMatrix ∘ .inv)).prod,
+    (L'.reverse.map (toMatrix ∘ .inv)).prod, s, ?_, hBinv_unit, ?_⟩
+  · simpa only [det_mul, isUnit_iff_ne_zero, ne_eq, mul_eq_zero, not_or] using
+    (hS_unit.mul hAinv_unit)
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/Matrix/Transvection.lean]: same here

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 3]
```diff
@@ -39,6 +41,13 @@ section JMatrixLemmas
 def J : Matrix (l ⊕ l) (l ⊕ l) R :=
   Matrix.fromBlocks 0 (-1) 1 0
 
+@[simp]
+theorem J_map {S : Type*} [CommRing S] (f : R →+* S) : (J l R).map f = J l S := by
+  unfold J
+  rw [fromBlocks_map, Matrix.map_zero f f.map_zero,
+    Matrix.map_one f f.map_zero f.map_one, Matrix.map_neg f f.map_neg,
+    Matrix.map_one f f.map_zero f.map_one]
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]:
```suggestion
  simp [J, fromBlocks_map, Matrix.map_neg]
```

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 4]
```diff
@@ -39,6 +41,13 @@ section JMatrixLemmas
 def J : Matrix (l ⊕ l) (l ⊕ l) R :=
   Matrix.fromBlocks 0 (-1) 1 0
 
+@[simp]
+theorem J_map {S : Type*} [CommRing S] (f : R →+* S) : (J l R).map f = J l S := by
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: should `R` be implicit in this one since it could be deduced by `f`?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 5]
```diff
@@ -186,4 +202,222 @@ instance : Group (symplecticGroup l R) :=
...
+    refine ⟨(sub_eq_zero.1 h_eq1).symm, (sub_eq_zero.1 h_eq3).symm, ?_⟩
+    rw [sub_eq_iff_comm, sub_neg_eq_add] at h_eq2
+    rw [← h_eq2, sub_eq_iff_eq_add']
+  · refine mem_iff'.mpr ?_
+    simp only [fromBlocks_transpose, J, fromBlocks_multiply, mul_zero, mul_one,
+      zero_add, mul_neg, add_zero, neg_mul, ← sub_eq_add_neg, fromBlocks_inj, sub_eq_zero]
+    refine ⟨h.1.symm, ?_, ?_, h.2.1.symm⟩
+    · rw [← h.2.2, neg_sub]
+    · have := congrArg transpose h.2.2
+      rwa [transpose_sub, transpose_mul, transpose_mul, transpose_one] at this
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]:
```suggestion
theorem fromBlocks_mem_iff [Fintype l] {A B C D : Matrix l l R} :
    fromBlocks A B C D ∈ symplecticGroup l R ↔
      Aᵀ * C = Cᵀ * A ∧
      Bᵀ * D = Dᵀ * B ∧
      Aᵀ * D - Cᵀ * B = 1 := by 
  refine ⟨fun h ↦ ?_, fun h ↦ mem_iff'.2 ?_⟩
  · have h_final : fromBlocks (Cᵀ * A - Aᵀ * C) (Cᵀ * B - Aᵀ * D)
      (Dᵀ * A - Bᵀ * C) (Dᵀ * B - Bᵀ * D) = J l R:= by
      simpa [mem_iff, fromBlocks_transpose, J, fromBlocks_multiply, 
        sub_eq_add_neg] using transpose_mem h
    obtain ⟨h_eq1, h_eq2, _, h_eq3⟩ := fromBlocks_inj.1 h_final
    exact ⟨(sub_eq_zero.1 h_eq1).symm, (sub_eq_zero.1 h_eq3).symm, by grind⟩
  · simp only [fromBlocks_transpose, J, fromBlocks_multiply, mul_zero, mul_one, zero_add, mul_neg,
      add_zero, neg_mul, ← sub_eq_add_neg, fromBlocks_inj, sub_eq_zero]
    exact ⟨h.1.symm, by grind, by simpa using congr(transpose $(h.2.2)), h.2.1.symm⟩
```

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 6]
```diff
@@ -186,4 +202,222 @@ instance : Group (symplecticGroup l R) :=
...
+  have h_block := fromBlocks_mem_iff.1 hA
+  rw [det_fromBlocks₁₁, invOf_eq_nonsing_inv, ← A.det_transpose, ← det_mul,
+    mul_sub, ← mul_assoc, ← mul_assoc, h_block.1, mul_assoc Cᵀ,
+    mul_inv_of_invertible, mul_one, h_block.2.2, det_one]
+
+private lemma ker_inter_eq_bot_of_rank_normal_form
+  (hU : IsUnit U.det) (hV : IsUnit V.det)
+  (h_rank : ∀ (x : l → R), (A *ᵥ x = 0) → (C *ᵥ x = 0) → x = 0) :
+  ∀ (x : l → R), ((Vᵀ⁻¹ * A * U) *ᵥ x = 0) → ((V * C * U) *ᵥ x = 0) → x = 0 := by
+  intro x h1 h2
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: mis-indentation, please follow https://leanprover-community.github.io/contribute/style.html

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 7]
```diff
@@ -186,4 +202,222 @@ instance : Group (symplecticGroup l R) :=
...
+  refine mulVec_injective_of_isUnit ((isUnit_iff_isUnit_det U).2 hU) ?_
+  rw [mulVec_zero]
+  refine h_rank (U *ᵥ x) ?_ ?_
+  · rw [mulVec_mulVec, ← one_mul (A * U), ← mul_nonsing_inv _ (isUnit_det_transpose _ hV),
+      mul_assoc, ← mul_assoc _ A, ← mulVec_mulVec, h1, mulVec_zero]
+  · rw [mulVec_mulVec, ← one_mul (C * U), ← nonsing_inv_mul _ hV,
+      mul_assoc, ← mul_assoc _ C, ← mulVec_mulVec, h2, mulVec_zero]
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: also what's the reason you wanna use `mulVec` specifically? Since your ring is a commring, surely `SMul` is what you want?
```suggestion
private lemma ker_inter_eq_bot_of_rank_normal_form
    (hU : IsUnit U.det) (hV : IsUnit V.det)
    (h_rank : ∀ (x : l → R), (A • x = 0) → (C • x = 0) → x = 0) (x : l → R)
    (h1 : (Vᵀ⁻¹ * A * U) • x = 0) (h2 : (V * C * U) • x = 0) : x = 0 := by
  refine (U.isUnit_iff_isUnit_det.2 hU).smul_left_cancel.1 ?_
  rw [mul_assoc, mul_smul, IsUnit.smul_eq_zero, mul_smul] at h1 h2
  all_goals simp_all [isUnit_iff_isUnit_det]
```

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean (hunk 1 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: Not intended actually, I'll unsqueeze them

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 4 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Reasonable, thanks!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 5 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Cool! Thanks!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 7 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Cause I thought it might increase an import of `Mathlib.LinearAlgebra.Matrix.Action`but yes it makes things easier, thanks!

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean (hunk 1 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: btw is `simp [X1_def, D_def]; grind` allowed? I remember seen some discussion on it but forgot the result

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: @faenuccio @eric-wieser

Comment (faenuccio) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: This was the conversation
https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/simp.20followed.20by.20grind/with/590976282
and I personally agree with @b-mehta 's conclusion there that although `simp ; grind` should _eventually_ be authorised (and become the standard, actually) the library is not ready yet. So I'd squeeze it.

Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: Thanks for the explanation! Squeezed.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 8]
```diff
@@ -186,4 +201,193 @@ instance : Group (symplecticGroup l R) :=
...
+  · have := (h_main1 i j).symm
+    rwa [if_pos hi, if_neg hj] at this
+  · have := (h_main1 i j).symm
+    rwa [if_pos hj, if_pos hi] at this
+
+private lemma exists_symmetric_X_invertible_add_mul_diagonal {R : Type*} [Field R] {s : Finset l}
+  {A : Matrix l l R} (h1 : ∀ (i j : l), i ∈ s → j ∉ s → A i j = 0)
+  (h2 : ∀ (i j : l), i ∈ s → j ∈ s → A i j = A j i)
+  (h_rank1 : ∀ (x : l → R), (A • x = 0) →
+    ((diagonal (fun i ↦ if i ∈ s then 1 else (0 : R))) • x = 0) → x = 0) :
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: the indentation here is still problematic, could you please check the styling website and make sure your PR followed all of them? Thank you!

Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Sorry, I think they are fixed now, both in statement & proof body.

**Comment by themathqueen** [comment]
This depends on #40449, doesn't it? Please add a `depends on: #40449` in the PR description.

**Comment by Yu-Misaka** [comment]
> This depends on #40449, doesn't it? Please add a `depends on: #40449` in the PR description.

Added. Thanks for the reminder.

File: Mathlib/Data/Matrix/Mul.lean [hunk 9]
```diff
@@ -737,6 +737,9 @@ theorem mulVec_eq_sum [Fintype n] (v : n → α) (M : Matrix m n α) :
     M *ᵥ v = ∑ i, MulOpposite.op (v i) • Mᵀ i :=
   (Finset.sum_fn ..).symm
 
+lemma mulVec_apply [Fintype n] {M : Matrix m n α} {x : n → α} {i : m} :
```
Comment (faenuccio) [inline Mathlib/Data/Matrix/Mul.lean]: Can you move this up closer to the definition of `mulVec`?

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean [hunk 10]
```diff
@@ -737,4 +737,29 @@ theorem diagonal_transvection_induction_of_det_ne_zero (P : Matrix n n 𝕜 →
       exact ⟨by simp [QA.1, QB.1], hmul A B QA.1 QB.1 QA.2 QB.2⟩
   exact this.2
 
+theorem exists_rank_normal_form (M : Matrix n n 𝕜) :
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/Matrix/Transvection.lean]: Can you add a bit of doc? Also, this file is not the natural place for this lemma, I think (it should be somewhere in `Matrix/Diagonal`: is there an import loop issue?)

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean [hunk 11]
```diff
@@ -737,4 +737,29 @@ theorem diagonal_transvection_induction_of_det_ne_zero (P : Matrix n n 𝕜 →
...
+      IsUnit V.det ∧ IsUnit U.det ∧
+      V * M * U = diagonal (fun i ↦ if i ∈ s then 1 else 0) := by
+  classical
+  obtain ⟨L, L', D, hM_eq⟩ := exists_list_transvec_mul_diagonal_mul_list_transvec M
+  set E := fun i ↦ if D i = 0 then 1 else (D i)⁻¹ with E_def
+  set s := Finset.filter (fun i ↦ D i ≠ 0) Finset.univ with s_def
+  have hAinv_unit : IsUnit (L.reverse.map (toMatrix ∘ .inv)).prod.det := by
+    rw [← List.map_map, det_toMatrix_prod]; exact isUnit_one
+  have hBinv_unit : IsUnit (L'.reverse.map (toMatrix ∘ .inv)).prod.det := by
+    rw [← List.map_map, det_toMatrix_prod]; exact isUnit_one
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/Matrix/Transvection.lean]: Don't these two successive calls suggest that we're missing an API lemma?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 12]
```diff
@@ -5,7 +5,11 @@ Authors: Matej Penciak, Moritz Doll, Fabien Clery
 -/
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean:5]: Can you add yourself to the authors (you're adding a lot of code)?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 13]
```diff
@@ -39,6 +42,12 @@ section JMatrixLemmas
 def J : Matrix (l ⊕ l) (l ⊕ l) R :=
   Matrix.fromBlocks 0 (-1) 1 0
 
+@[simp]
+theorem map_J {F R S : Type*} [CommRing S] [CommRing R] [FunLike F R S]
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: This result (and many of its friend, please look at them) should be in the namespace `SumplecticGroup` (which exists and is declared below).

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 14]
```diff
@@ -186,4 +199,164 @@ instance : Group (symplecticGroup l R) :=
...
+    exact ⟨(sub_eq_zero.1 h_eq1).symm, (sub_eq_zero.1 h_eq3).symm, by grind⟩
+  · simp only [fromBlocks_transpose, J, fromBlocks_multiply, mul_zero, mul_one, zero_add, mul_neg,
+      add_zero, neg_mul, ← sub_eq_add_neg, fromBlocks_inj, sub_eq_zero]
+    exact ⟨h.1.symm, by grind, by simpa using congr(transpose $(h.2.2)), h.2.1.symm⟩
+
+section Determinant
+
+variable {A B C D U V : Matrix l l R}
+
+private lemma det_one_if_fromBlocks_invertible [Invertible A]
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean:241]: I guess that this infinite list of `private` comes from the use of Seed Prover. Can you fix them one-by-one explaining your choices?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 15]
```diff
@@ -186,4 +199,164 @@ instance : Group (symplecticGroup l R) :=
...
+      rw [← map_mul, (fromBlocks_mem_iff.1 hA).1, map_mul]
+  obtain ⟨X, hX_symm, hXY⟩ : ∃ X : Matrix l l R, X.IsSymm ∧ X.map f = Y := by
+    choose s hs using @IsLocalRing.residue_surjective R _ _
+    exact ⟨Y.map s, hY_symm.map s, Matrix.ext fun i j ↦ hs (Y i j)⟩
+  refine ⟨X, hX_symm, (IsLocalRing.residue_ne_zero_iff_isUnit _).1 ?_⟩
+  rw [RingHom.map_det, map_add, map_mul, RingHom.mapMatrix_apply _ X, hXY]
+  exact hY_det.ne_zero
+
+/-- Over any local ring, every symplectic matrix has determinant 1. -/
+private lemma det_eq_one_of_isLocalRing [IsLocalRing R] {M : Matrix (l ⊕ l) (l ⊕ l) R}
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean:355]: Is this the right file?

**Review by faenuccio — COMMENTED** [review]
I left some comments, but 
1. In the file `Transvection.lean` there are many results that require k to be a field but would work for any CommRing R: just start commening your added lemma, and follow the rabbit hole. At the end of the day, you cannot remove it from all the dependecies, but from many of them and this would be a very valuable PR: can you open it and make this one depend on the other?
2. The file `SymplecticGroup` suffers a lot from being LLM generated. There are too many private lemmas (with no explanation), no doc and no explanation on what you chose to add and what not.

File: Mathlib/Data/Matrix/Mul.lean (hunk 9 above)
Comment (Yu-Misaka) [reply Mathlib/Data/Matrix/Mul.lean]: Sure, moved

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean (hunk 10 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: ~~Agreed, I've moved it to `Matrix/Diagonal` and no import issue is spotted. I'm considering how to make the statement better (for example should it be `IsUnit V.det` or `IsUnit V`, or should I state it as diagonal matrix `fromBlocks 1 0 0 0`), then I'll add some doc accordingly.~~

(update) Modified and added doc. I switched to `fromBlocks 1 0 0 0` and `submatrix` for more convenient calculation of multiplication (in contrast, `reindex` seems to lack relevant helper lemmas).

btw I moved it to `Matrix/Rank` because the new statement is causing import loop issue if placed in `Matrix/Diagonal`.

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean (hunk 11 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: Thanks for the reminder, I extracted it to `isUnit_prod_mul_reverse`.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 14 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean:241]: ~~Of course! I don't like how the proof looks now either, I'll spend some time to go through it again and see how to make it better.~~

(update) I think I've made it more readable and organic in the latest commits. :)

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 13 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Reasonable, I've moved this section down, thanks!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 15 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean:355]: I think probably yes? Since this is only a helper lemma towards `det_eq_one`. (Or do you prefer splitting determinate results into explicit file?)

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 12 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean:5]: Added, thanks! (although perhaps the model is the author in this case)

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 16]
```diff
@@ -327,6 +328,41 @@ theorem rank_diagonal [Fintype m] [DecidableEq m] [DecidableEq R] (w : m → R)
...
+    rw [V_def, det_mul, det_diagonal]
+    exact IsUnit.mk0 _ (Finset.prod_ne_zero_iff.2 (by grind)) |>.mul <|
+      (isUnit_iff_isUnit_det _).1 (isUnit_prod_mul_reverse _)
+  have hM : V * M * U = diagonal (fun i ↦ if i ∈ s then 1 else 0) := by
+    rw [V_def, U_def, hM0, mul_assoc, mul_assoc _ (L'.map _).prod, prod_mul_reverse_inv_prod,
+      mul_one, ← mul_assoc, mul_assoc _ (L.reverse.map _).prod, reverse_inv_prod_mul_prod, mul_one]
+    ext
+    simp only [E_def, mul_diagonal, diagonal_apply, ite_mul, one_mul, zero_mul, s_def,
+      Finset.mem_filter, Finset.mem_univ, true_and, ite_not]
+    split_ifs with h1 h2 <;> first | rw [← h1, h2] | rw [← h1, inv_mul_cancel₀ h2] | rfl
```
Comment (Yu-Misaka) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean:372]: (implementation note) I didn't use `grind` because it slows things down a bit.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 13 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Hi, sorry for the delay in getting back to you. This part of the code was already reviewed and merged in #40449, and the reviewer there seemed to prefer keeping the current namespace arrangement. That said, if you think it would be better to place these results in `SymplecticGroup`, I'm very happy to make that change here as well.

Apologies again for not handling the PR split very well, and for the duplicated review effort this caused on your side. Now that the prerequisite PR has been merged, there should not be similar issues of this kind going forward.

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean [hunk 17]
```diff
@@ -219,6 +219,11 @@ theorem prod_mul_reverse_inv_prod (L : List (TransvectionStruct n R)) :
       by simpa [Matrix.mul_assoc]
     simp_rw [IH, Matrix.mul_one, t.mul_inv]
 
+theorem isUnit_prod_mul_reverse (L : List (TransvectionStruct n R)) :
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/Matrix/Transvection.lean]: I don't see any `reverse` but I see an `inverse` in the statement. Am I wrong?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 18]
```diff
@@ -197,4 +200,152 @@ instance : Group (symplecticGroup l R) :=
...
+block is invertible. -/
+private lemma det_one_if_fromBlocks_invertible [Invertible A]
+    (hA : fromBlocks A B C D ∈ symplecticGroup l R) :
+    (fromBlocks A B C D).det = 1 := by
+  have h_block := fromBlocks_mem_iff.1 hA
+  rw [det_fromBlocks₁₁, invOf_eq_nonsing_inv, ← A.det_transpose, ← det_mul,
+    mul_sub, ← mul_assoc, ← mul_assoc, h_block.1, mul_assoc Cᵀ,
+    mul_inv_of_invertible, mul_one, h_block.2.2, det_one]
+
+/-- Field normal-form step: under the kernel-intersection and symmetry hypotheses, construct
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: Is this "kernel-intersection" wording standard? If not, you can make this comment slightly more explicit.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 19]
```diff
@@ -197,4 +200,152 @@ instance : Group (symplecticGroup l R) :=
...
+a symmetric shear `X` such that `A + X * C` is invertible. -/
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: Why do you call it a "shear"?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 20]
```diff
@@ -197,4 +200,152 @@ instance : Group (symplecticGroup l R) :=
...
+private lemma exists_symmetric_X_invertible_add_mul_of_ker_inter_eq_bot {R : Type*} [Field R]
+    {A C : Matrix l l R} (h_rank : ∀ (x : l → R), (A • x = 0) → (C • x = 0) → x = 0)
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: Is this `h_rank` the most natural way to express that the intersection of the kernels is `0`? Why not writing it in this form?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 21]
```diff
@@ -197,4 +200,152 @@ instance : Group (symplecticGroup l R) :=
...
+    Fin (Fintype.card l - C.rank)) R := fromBlocks (1 - (f Q).toBlocks₁₁) 0 0 0 with Y_def
+  have hY_symm : Y.IsSymm := by
+    rw [Y_def, isSymm_fromBlocks_iff]
+    exact ⟨IsSymm.sub isSymm_one con2.1, by simp⟩
+  set X := (f Vᵀ) * Y * (f V) with X_def
+  have heq' : f (A + X.submatrix s s * C) = (f Vᵀ) * (f Q + Y * (f P)) * f (U⁻¹) := by
+    simp_rw [hf, submatrix_add, Pi.add_apply, Q_def, P_def, ← hf, hf_mul, hf, mul_add, ← mul_assoc,
+      ← inv_submatrix_equiv, add_mul, mul_assoc _ (U.submatrix _ _), mul_inv_of_invertible]
+    simp [X_def]; rfl
+  refine ⟨X.submatrix s s, IsSymm.submatrix ?_ s, (isUnit_submatrix_equiv s.symm s.symm).1 ?_⟩
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean:305]: Before this `refine` can you say that you've finally constructed the sought-for `X` (that, in particular, is not `X` but  `X.subamtrix s s`)?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 22]
```diff
@@ -197,4 +200,152 @@ instance : Group (symplecticGroup l R) :=
...
+  · simp_rw [X_def, Matrix.IsSymm, transpose_mul, hY_symm.eq, hf, transpose_submatrix,
+      transpose_transpose, mul_assoc]
+  · rw [← hf, heq', IsUnit.mul_iff, IsUnit.mul_iff]
+    refine ⟨⟨isUnit_of_invertible _, ?_⟩, ?_⟩
+    · nth_rw 1 [Y_def, heq, ← (f Q).fromBlocks_toBlocks, con2.2]
+      simpa [hf, fromBlocks_multiply, fromBlocks_add]
+    · exact hf_unit <| isUnit_nonsing_inv_iff.2 hU
+
+/-- Local lifting step: reduce a symplectic block matrix to the residue field, apply the field
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: Can you introduce the context here? You've never been working with local rings before this lemma. I guess you're proving it in this form although you'll only apply it to fields? Can you explain this in the doc?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 15 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean:355]: No, this is fine.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 23]
```diff
@@ -197,4 +200,152 @@ instance : Group (symplecticGroup l R) :=
...
+  have h_fromBlocks_in : fromBlocks (A + X * C) (B + X * D) C D ∈ symplecticGroup l R := by
+    rw [← Lx_mul]
+    refine (symplecticGroup l R).mul_mem ?_ hM
+    simp [mem_iff, fromBlocks_transpose, hX_symm.eq, J, fromBlocks_multiply]
+  have _ : Invertible (A + X * C) := (A + X * C).invertibleOfIsUnitDet hA_isUnit
+  have h_main : ((fromBlocks 1 X 0 1) * M).det = 1 := by
+    rw [Lx_mul, det_one_if_fromBlocks_invertible h_fromBlocks_in]
+  rwa [det_mul, det_fromBlocks_zero₂₁, det_one, one_mul, one_mul] at h_main
+
+/-- Symplectic matrices have determinant 1. -/
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: Can you explain here your overall strategy? I think it is also worth repeating this into the module docstring.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 24]
```diff
@@ -327,6 +328,41 @@ theorem rank_diagonal [Fintype m] [DecidableEq m] [DecidableEq R] (w : m → R)
   rw [Matrix.rank, ← Matrix.toLin'_apply', Module.finrank, ← LinearMap.rank,
     LinearMap.rank_diagonal, Cardinal.toNat_natCast]
 
+open TransvectionStruct in
+/-- Every square matrix over a field admits a rank normal form. -/
+theorem exists_rank_normal_form [Fintype m] [DecidableEq m] (M : Matrix m m R) :
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean:351]: This certainly needs to be mentioned in the module docstring; also, what is a "rank normal form"?

**Review by faenuccio — COMMENTED** [review]
Thanks, I've left some more comments.

Can you also add a `wikidata` tag as in
https://github.com/leanprover-community/mathlib4/blob/717304de0c6c79468a1cee2a76f798f792c252be/Mathlib/NumberTheory/LSeries/RiemannZeta.lean#L120
for the definition of the symplectic group?

**Review by faenuccio — COMMENTED** [review]
awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Transvection.lean (hunk 17 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Transvection.lean]: You're right, that was a typo on my side. Thanks for catching it!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 18 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Thanks, I agree this wording is not very standard. Fixed in the latest commit.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 19 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Indeed this is misleading. What I had in mind was that this matrix is later used to build the block shear `fromBlocks 1 X 0 1` in `det_eq_one_of_isLocalRing`, but calling `X` itself a shear here is inaccurate. Fixed.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 20 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Thanks, this is a good point. I think mathematically `A.mulVecLin.ker ⊓ C.mulVecLin.ker = ⊥` is cleaner.

The reason that I kept the pointwise formulation was because in the proof I repeatedly apply the hypothesis to explicit vectors, and in places such as `con3` one still has to unpack everything to that form anyway. So I think the pointwise version is a bit easier to work with internally.

That said, I agree the current doc needs to be updated to reflect the actual code. Does the latest commit look better?

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 21 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean:305]: Sure!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 22 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: The reason local rings appear here is that the final theorem is proved by local-global argument, so this lemma is really for the local ring case. I'll make this motivation explicit in the docstring, thanks for the suggestion!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 23 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Sure! Added both to module doc and theorem doc.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 24 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean:351]: Oops, sorry I just realized that "rank normal form" is only used by Meyer in his Matrix Analysis book. I've expanded the docstring here.

Regarding the module docstring, I also agree that this should be documented better. My only concern is that the current module docstring in `Matrix/Rank` is fairly minimal and does not list any later results. Would you prefer adding this result there on its own, or doing that with other results in the file?

**Comment by Yu-Misaka** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 24 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean:351]: Well, if you can add some other result and make the docstring looks nicer, this would be a very valuable improvement!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 12 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean:5]: Add also your name.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 25]
```diff
@@ -17,8 +21,24 @@ This file defines the symplectic group and proves elementary properties.
...
+## Implementation Notes
+
+* `SymplecticGroup.det_eq_one`: To prove that symplectic matrices have determinant 1,
+we first rewrite the symplectic condition for a block matrix as the three block identities
+recorded in `SymplecticGroup.fromBlocks_mem_iff`.
+
+If the upper-left block is invertible, a Schur complement argument gives the determinant
+computation directly.
+
+In general, we modify the upper-left block by multiplying on the left by a symplectic block shear
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: shear is back...

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 26]
```diff
@@ -197,4 +218,160 @@ instance : Group (symplecticGroup l R) :=
...
+      change f.mapMatrix Aᵀ * f.mapMatrix C = f.mapMatrix Cᵀ * f.mapMatrix A
+      rw [← map_mul, (fromBlocks_mem_iff.1 hA).1, map_mul]
+  obtain ⟨X, hX_symm, hXY⟩ : ∃ X : Matrix l l R, X.IsSymm ∧ X.map f = Y := by
+    choose s hs using @IsLocalRing.residue_surjective R _ _
+    exact ⟨Y.map s, hY_symm.map s, Matrix.ext fun i j ↦ hs (Y i j)⟩
+  refine ⟨X, hX_symm, (IsLocalRing.residue_ne_zero_iff_isUnit _).1 ?_⟩
+  rw [RingHom.map_det, map_add, map_mul, RingHom.mapMatrix_apply _ X, hXY]
+  exact ((isUnit_iff_isUnit_det _).1 hY_det).ne_zero
+
+/-- Local determinant step: after a symmetric shear makes the upper-left block invertible, the
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: I still see a "shear"

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 27]
```diff
@@ -197,4 +218,160 @@ instance : Group (symplecticGroup l R) :=
...
+    simp [mem_iff, fromBlocks_transpose, hX_symm.eq, J, fromBlocks_multiply]
+  have _ : Invertible (A + X * C) := (A + X * C).invertibleOfIsUnitDet hA_isUnit
+  have h_main : ((fromBlocks 1 X 0 1) * M).det = 1 := by
+    rw [Lx_mul, det_one_if_fromBlocks_invertible h_fromBlocks_in]
+  rwa [det_mul, det_fromBlocks_zero₂₁, det_one, one_mul, one_mul] at h_main
+
+/-- Symplectic matrices have determinant 1.
+
+The proof proceeds by proving the local ring case via a symmetric block shear
+and then applying a local-global principle. -/
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: Is this true or is this the LLM intepretation of the proof? I would say that local/global is a way of proving results over rings by knowing them over fields, not the other way round....

**Review by faenuccio — CHANGES_REQUESTED** [review]

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 23 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: I don't agree with your description of a global/local strategy: as asked below, and sorry for the repetition, I wonder if you or your LLM came up with this description.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 25 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Oh, sorry I thought you meant the "shear" is misplaced instead of not preferred. I'll remove all occurrence.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 24 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean:351]: Sure, I'll go through other results and see. :)

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 25 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: I just say that I don't know the term: if it is common you can leave it (perhaps convince me that it is indeed common in that case...)

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 27 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: To be honest this term was first brought up by LLM. But I did ask it to provide reference for calling it local/global, it returned Kunz's _Introduction to Commutative Algebra and Algebraic Geometry._ I just went back and double checked, the Chapter IV there indeed interpret local-global principle as going from local case to global case.

Still if local/global here is vague or more commonly viewed as the other way around, I'm happy to rethink the doc.

Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: I'm sorry for the excessive LLM usage. My word is always long and verbose so I tend to seek for help from the model to shrink it in situation where concise matters. I promise to be more careful & try my own words more.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 25 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: I was referring to https://en.wikipedia.org/wiki/Shear_mapping, but... maybe not that common indeed, I shall just remove it.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 26 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Removed✓

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 27 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Hi! I went through the proof again and rewrote all docs. Let me know if there is anything still wrong or missing :)

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 23 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Updated below, yes the original description was bad, sorry.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 24 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean:351]: Updated, thanks!

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 28]
```diff
@@ -25,6 +26,19 @@ This definition does not depend on the choice of basis, see `Matrix.rank_eq_finr
 * `Matrix.cRank`: the rank of a matrix as a cardinal
 * `Matrix.eRank`: the rank of a matrix as a term in `ℕ∞`.
 
+## Main results
+
+* `Matrix.rank_eq_finrank_range_toLin`: the rank equals the dimension of the range of the
+corresponding linear map, and is therefore independent of the choice of bases.
+* `Matrix.rank_eq_finrank_span_cols`, `Matrix.rank_eq_finrank_span_row`: the rank equals the
```
Comment (Yu-Misaka) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean:33]: `rank_eq_finrank_span_cols` ends with plural, but `rank_eq_finrank_span_row` is singular, should I change it in the code? Or is it beyond the scope of this PR?

Comment (wwylele) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean:33]: Let's keep them as-is and not adding more work for reviewers (arguably adding doc is already out of the scope)

Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean:33]: Reasonable, thanks!

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 29]
```diff
@@ -17,8 +21,27 @@ This file defines the symplectic group and proves elementary properties.
...
 * `symplecticGroup`: the group of symplectic matrices
 
+## Implementation Notes
+
+* `SymplecticGroup.det_eq_one`: Symplectic matrices have determinant 1. The proof strategy
+comes in two steps:
+
+1. Consider a symplectic matrix `M` over a local ring, we can construct a matrix of the
+form `fromBlocks 1 X 0 1` s.t. the upper-left block of `(fromBlocks 1 X 0 1) * M` is invertible.
+From this we can calculate the determinate.
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]:
```suggestion
From this we can calculate the determinant.
```

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 30]
```diff
@@ -17,8 +21,27 @@ This file defines the symplectic group and proves elementary properties.
...
+
+2. For symplectic matrix `M` over general commutative ring `R`, we note that by step 1,
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]:
```suggestion
2. For a symplectic matrix `M` over general commutative ring `R`, we note that by step 1,
```

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 31]
```diff
@@ -17,8 +21,27 @@ This file defines the symplectic group and proves elementary properties.
...
+`M.det - 1 = 0` in any localization at a maximal ideal in `R`. Therefore `M.det = 1` in `R`.
+
+Developing the proof in two steps is helpful, since the local ring hypothesis allows us to
+construct the desired `X` in step 1 within residue field, and lift back to the ring while keeping
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]:
```suggestion
construct the desired `X` in step 1 at the residue field level, and lift back to the ring while keeping
```

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 32]
```diff
@@ -17,8 +21,27 @@ This file defines the symplectic group and proves elementary properties.
...
+the upper-left block invertible.
+
+Note that theoretically we can inline everything and directly consider localization at all
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]: You can drop this paragraph.

File: Mathlib/LinearAlgebra/SymplecticGroup.lean [hunk 33]
```diff
@@ -197,4 +221,176 @@ instance : Group (symplecticGroup l R) :=
...
+    refine ⟨⟨isUnit_of_invertible _, ?_⟩, ?_⟩
+    · nth_rw 1 [Y_def, heq, ← (f Q).fromBlocks_toBlocks, con2.2]
+      simpa [hf, fromBlocks_multiply, fromBlocks_add]
+    · exact f_unit <| isUnit_nonsing_inv_iff.2 hU
+
+/-- For any symplectic matrix `fromBlocks A B C D` over a local ring `R`, we can construct
+a symmetric `X` s.t. `A + X * C` is invertible.
+
+Introducing local ring hypothesis enables us to transport the construction of `X`
+(from the previous lemma, which operates only over field) back to `R` while keeping
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/SymplecticGroup.lean]:
```suggestion
(from the previous lemma, which works only over fields) back to `R` while keeping
```

**Review by faenuccio — COMMENTED** [review]
Thanks! I've seen that in this final version there were a couple of very minor English problems, and let me emphasize that I find this infinitely better than having everything polished by an LLM, so I encourage you, in the following, to keep writing everything by yourself.

**Comment by faenuccio** [comment]
thanks

bors d+

File: Mathlib/LinearAlgebra/SymplecticGroup.lean (hunk 32 above)
Comment (Yu-Misaka) [reply Mathlib/LinearAlgebra/SymplecticGroup.lean]: Sure!

**Comment by Yu-Misaka** [comment]
> Thanks! I've seen that in this final version there were a couple of very minor English problems, and let me emphasize that I find this infinitely better than having everything polished by an LLM, so I encourage you, in the following, to keep writing everything by yourself.

Thank you for your help and encouragement along the way! Yes I'll definitely write things myself and really spend efforts to learn and improve my words ;)
